US04005147
120 Parts of 2-methyl-1-hepten-6-one, 40 parts of 3,3-dimethyl-acrolein and 10 parts of zinc oxide are heated for 5 hours at 180° C and a pressure of 60 atmospheres. 63.5 Parts of 2,10-dimethyl-2,4,10-undecatrien-6-one having a boiling point of 120° to 123° C at 0.1 mm is obtained analogously to Example 9. The yield is 91% of theory (based on 3,3-dimethyl-acrolein) at a conversion of 78% of theory.

reactant | 2-methyl-1-hepten-6-one | CC(=C)CCCC(C)=O | C8H14O
reactant | 3,3-dimethyl-acrolein | CC(=CC=O)C | C5H8O
catalyst | zinc oxide | [O-2].[Zn+2]
product | 2,10-dimethyl-2,4,10-undecatrien-6-one | yield is 91% | CC(C)=CC=CC(CCCC(=C)C)=O | C13H20O
